US07273878B2
To 1.02 g (9.4 mmol) of 4-chlorobutanol was dissolved 1.00 g (3.1 mmol) of 4,4-difluoro-3-methyl-3-butenyl 2-methanesulfonyl-4-methylpyrimidine-5-carboxylate, followed by the addition of 0.38 g (3.8 mmol) of triethylamine under ice-cooling and stirring at room temperature for 14 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:9) to obtain 0.30 g (yield: 27%) of 4,4-difluoro-3-methyl-3-butenyl 2-(4-chlorobutoxy)-4-methylpyrimidine-5-carboxylate.

reactant | 4-chlorobutanol | 9.4 mmol, 1.02 g | ClCCCCO | C4H9ClO
reactant | 4,4-difluoro-3-methyl-3-butenyl 2-methanesulfonyl-4-methylpyrimidine-5-carboxylate | 3.1 mmol, 1.00 g | CS(=O)(=O)C1=NC=C(C(=N1)C)C(=O)OCCC(=C(F)F)C | C12H14F2N2O4S
reactant | triethylamine | 3.8 mmol, 0.38 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4,4-difluoro-3-methyl-3-butenyl 2-(4-chlorobutoxy)-4-methylpyrimidine-5-carboxylate | 0.30 g, yield: 27% | ClCCCCOC1=NC=C(C(=N1)C)C(=O)OCCC(=C(F)F)C | C15H19ClF2N2O3
